* D:\Ubeyd\Bitirme - 1\kod\genetik_algoritmalar\bitirme-I\pyspice\test\stepper\Batch_Test.asc
V1 +V 0 5
R1 N001 0 4k
R2 OUT N001 2k
V2 -V 0 -15
V3 IN 0 SINE(0 1 3k 0 0 0)
XU1 IN N001 +V -V OUT AD712
.tran 1m
.meas TRAN Vout_rms RMS V(OUT)
.meas TRAN Vin_rms RMS V(IN)
.meas TRAN gain PARAM Vout_rms/Vin_rms
.param freq=10k
* .step param run 1 3 1
.meas Vout1m FIND V(OUT) AT 1m
.meas TRAN period FIND time WHEN V(out)=0 RISE=1
.param test_param3 = test_param2 + 1
.param test_param1 = 12  test_param2=20
.step dec param freq 10k 1Meg 10
.lib ADI1.lib
.PARAM res=0  ; Batch instruction
.PARAM cap=0.0001  ; Batch instruction
; Simulation settings
.param run = 0
.backanno
.end
